US07223767B2
2-(4-Chloro-phenyl)-cyclohexanone
A solution of 4-chlorophenylmagnesium bromide (200 mL of 1 M in ether, 200 mmol) was cooled in an ice-bath and a solution of 2-chlorocyclohexanone (26.5 g, 200 mmol) in 200 mL of ether was slowly added. The mixture was stirred at room temperature for 4 hours and was then concentrated under reduced pressure. Benzene (300 mL) was added and the mixture was heated under reflux for 12 h. Dilute aqueous HCl was added and the organic layer was separated, washed with brine, dried (sodium sulfate) and evaporated. Bulb-to-bulb distillation (2 mm) afforded 30.8 g of liquid product that subsequently crystallized.

reactant | 4-chlorophenylmagnesium bromide | 200 mmol, 1 M, 200 mL | ClC1=CC=C(C=C1)[Mg]Br
reactant | 2-chlorocyclohexanone | 200 mmol, 26.5 g | ClC1C(CCCC1)=O | C6H9ClO
solvent | ether | 200 mL | CCOCC | C4H10O
product | 2-(4-Chloro-phenyl)-cyclohexanone | 30.8 g | ClC1=CC=C(C=C1)C1C(CCCC1)=O | C12H13ClO
